US04514481
Preparation of 2,6-Diphenyl-4-(cyanoethoxycarbonylmethylene)-4H-thiopyran-1,1-dioxide (Compound 6, Table I)
A solution of 6.6 ml (0.06 M) of TiCl4 in 15 ml of CCl4 was added dropwise to 120 ml of ice-cooled dry THF (120 ml) under argon. The resulting bright yellow suspension was added quickly to a solution of 8.9 gm (0.03 M) of 2,6-diphenyl-4H-thiopyran-4-one-1,1-dioxide and 3.4 gm (0.03 M) of ethyl cyanoacetate in 70 ml of THF. The mixture was stirred for 20 minutes in the ice-bath. Then 9.5 gm (0.12 M) of dry pyridine was then added. After stirring at room temperature overnight 30 ml of H2O and a small amount of ether was added to the reaction mixture. The organic phase was separated, washed with dilute NaHCO3, brine, dried (MgSO4) and rotavaporated to give 11.4 gm of a highly fluorescent yellow solid. The latter solid was recrystallized from toluene containing a little hexane to give the titled compound (mp 156°-7° C.).

reactant | 2,6-diphenyl-4H-thiopyran-4-one-1,1-dioxide | 0.03 M, 8.9 gm | C1(=CC=CC=C1)C=1S(C(=CC(C1)=O)C1=CC=CC=C1)(=O)=O | C17H12O3S
reactant | ethyl cyanoacetate | 0.03 M, 3.4 gm | C(#N)CC(=O)OCC | C5H7NO2
reactant | pyridine | 0.12 M, 9.5 gm | N1=CC=CC=C1 | C5H5N
reactant | H2O | 30 ml | O | H2O
solvent | CCl4 | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | THF | 70 ml | C1CCOC1 | C4H8O
catalyst | TiCl4 | 0.06 M, 6.6 ml | Cl[Ti](Cl)(Cl)Cl
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2,6-Diphenyl-4-(cyanoethoxycarbonylmethylene)-4H-thiopyran-1,1-dioxide | C1(=CC=CC=C1)C=1S(C(=CC(C1)=CC(=O)OCCC#N)C1=CC=CC=C1)(=O)=O | C22H17NO4S
